US06011044
Preparation of 1-(2-methyl-4-fluorophenyl)-4-methylamino-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline
1-(2-Methyl-4-fluorophenyl)-4-chloro-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline(970 mg, 2.4 mmol) was dissolved in aqueous solution of methylamine(40%, 10 ml) in the pressure tube, and the resultant was refluxed at 180° C. for 3 hours. After removing the solvent by distillation under reduced pressure, the residue was diluted in dichloromethane(20 ml), and washed with water(15 ml) for 3 times. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography to obtain 810 mg of desired compound as solid in 85% of yield.

reactant | 1-(2-Methyl-4-fluorophenyl)-4-chloro-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline | 2.4 mmol, 970 mg | CC1=C(C=CC(=C1)F)N1C=CC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)Cl | C20H13ClF4N2O
reactant | methylamine | 10 ml | CN | CH5N
product | 1-(2-methyl-4-fluorophenyl)-4-methylamino-6-β,β,β-trifluoroethoxypyrrolo[3,2-c]quinoline | 810 mg | CC1=C(C=CC(=C1)F)N1C=CC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NC | C21H17F4N3O
